US09359359B2
To a solution of 8-bromo-1-(3-hydroxybutyl)-3-methyl-7-((2-(trimethylsilyl)ethoxy)methyl)-1H-purine-2,6(3H,7H)-dione (1 g, 2.2 mmol) in DNF (10 mL) was added 3-(trifluoromethoxy)phenol (0.6 g, 3 mmol) followed by potassium carbonate (0.6 g, 4.4 mmol). The reaction was stirred at 80° C. for 4 h. The mixture was diluted with ethyl acetate and washed with brine. The organic phase was dried and concentrated to give 1-(3-hydroxybutyl)-3-methyl-8-(3-(trifluoromethoxy)phenoxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-1H-purine-2,6(3H,7H)-dione (1.1 g, 91.8% yield) as yellow syrup. LCMS retention time 2.036 min; LCMS MH+ 545.

reactant | 8-bromo-1-(3-hydroxybutyl)-3-methyl-7-((2-(trimethylsilyl)ethoxy)methyl)-1H-purine-2,6(3H,7H)-dione | 2.2 mmol, 1 g | BrC1=NC=2N(C(N(C(C2N1COCC[Si](C)(C)C)=O)CCC(C)O)=O)C | C16H27BrN4O4Si
reactant | 3-(trifluoromethoxy)phenol | 3 mmol, 0.6 g | FC(OC=1C=C(C=CC1)O)(F)F | C7H5F3O2
reactant | potassium carbonate | 4.4 mmol, 0.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(3-hydroxybutyl)-3-methyl-8-(3-(trifluoromethoxy)phenoxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-1H-purine-2,6(3H,7H)-dione | 1.1 g, 91.8% yield | OC(CCN1C(N(C=2N=C(N(C2C1=O)COCC[Si](C)(C)C)OC1=CC(=CC=C1)OC(F)(F)F)C)=O)C | C23H31F3N4O6Si
